US06900336B2
A solution of dimethylsulfoxide (0.93 mL, 12 mmol) in dichloromethane (40 mL) was cooled to −78° C. under nitrogen, and a solution of oxalyl chloride (0.820 mL, 9.4 mmol) in dichloromethane (3 mL) was added to it, over a 2 minute period. The reaction mixture was left stirring at −78° C. for 30 minutes. A solution of 7-((R)-5-hydroxymethyl-3,3-dimethyl-2-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester (2.25 g, 7.5 mmol) in dichloromethane (20 mL) was added slowly. When the addition was complete, the reaction flask was stirred for 15 minutes at −78° C. Finally, triethylamine (2.1 mL, 15.0 mmol) was added slowly to the reaction flask; it was left to reach room temperature and stirred for an additional 15 minutes. It was then quenched by adding 20 mL of water and 20 mL of diethyl ether, and extracted with dichloromethane. The organic phase was dried over potassium carbonate and concentrated to dryness. The crude mixture was purified by chromatography on silica gel using hexane:ethyl acetate 2:1 as a solvent giving 1.5 g of 7-((R)-5-formyl-3,3-dimethyl-2-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester.

reactant | dimethylsulfoxide | 12 mmol, 0.93 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 9.4 mmol, 0.820 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-((R)-5-hydroxymethyl-3,3-dimethyl-2-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester | 7.5 mmol, 2.25 g | C(C)OC(CCCCCCN1C(C(C[C@@H]1CO)(C)C)=O)=O | C16H29NO4
reactant | triethylamine | 15.0 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 7-((R)-5-formyl-3,3-dimethyl-2-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester | 1.5 g | C(C)OC(CCCCCCN1C(C(C[C@@H]1C=O)(C)C)=O)=O | C16H27NO4
